US07777047B2
3-(benzylthio)-3-methyl-4-nitrobutan-1-ol
A mixture of 4-hydroxy-2-butanone (5.00 g), benzylmercaptan (6.65 ml), nitromethane (30.7 ml), ethylenediamine (3.80 ml) and acetonitrile (30 ml) was stirred at room temperature for 4 hr. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography to give the title compound (5.70 g, yield 39%) as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | 4-hydroxy-2-butanone | 5.00 g | OCCC(C)=O | C4H8O2
reactant | benzylmercaptan | 6.65 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | nitromethane | 30.7 ml | [N+](=O)([O-])C | CH3NO2
reactant | ethylenediamine | 3.80 ml | C(CN)N | C2H8N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(benzylthio)-3-methyl-4-nitrobutan-1-ol | 5.70 g, yield 39% | C(C1=CC=CC=C1)SC(CCO)(C[N+](=O)[O-])C | C12H17NO3S
